US03980788
A solution of the 1-benzyl-4-dimethylaminopiperidine in 125 ml. of methanol was shaken with 1.0 gm. of 10 percent palladium on carbon under 50 psi of hydrogen at 50°C. until one equivalent of hydrogen was consumed. The suspension was filtered and the filtrate concentrated at atmospheric pressure. The residue was distilled at 20 mm. Hg. to give 4-dimethylaminopiperidine, b.p. 90°-92°C.

reactant | 1-benzyl-4-dimethylaminopiperidine | C(C1=CC=CC=C1)N1CCC(CC1)N(C)C | C14H22N2
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | one equivalent | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 4-dimethylaminopiperidine | CN(C1CCNCC1)C | C7H16N2
